delta_loaded_network - fault test
Vin A 0 DC 12
Ca A B 8.8e-06
Rb B C 29.700199
Rc C A 30.169466
Rload B 0 30.31153
.op
.control
run
print v(A) v(B) v(C)
print @rb[i] @rc[i] @rload[i]
.endc
.end
